US09163021B2
3-(2-ethoxy-vinyl)-5-fluoro-pyridin-4-ylamine
Ethoxyacetylene (7.9 mL, 56.4 mmol) was cooled to 0° C. and a solution of catecholborane (6.1 g, 50.8 mmol) in THF (90 mL) was added slowly. The reaction was allowed to warm to room temperature over 2 hours followed by heating to reflux for 2 hours. The reaction was cooled and 3-fluoro-5-iodo-pyridin-4-ylamine (Preparation 64, 7 g, 29.4 mmol) was added as a solution in THF (20 mL). After purging with nitrogen for 20 minutes, NaOH powder (3.52 g, 88 mmol) and Pd(PPh3)4 (1 g, 0.88 mmol) were added and the reaction heated to reflux for 20 hours. The reaction was filtered through celite, washed with EtOAc, the organic layer collected, washed with brine, dried over sodium sulphate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 50% EtOAc in hexane to afford the title compound (3.59 g)

reactant | Ethoxyacetylene | 56.4 mmol, 7.9 mL | C(C)OC#C | C4H6O
reactant | catecholborane | 50.8 mmol, 6.1 g | [B]1OC2=CC=CC=C2O1 | C6H4BO2
reactant | 3-fluoro-5-iodo-pyridin-4-ylamine | 29.4 mmol, 7 g | FC=1C=NC=C(C1N)I | C5H4FIN2
reactant | NaOH | 88 mmol, 3.52 g | [OH-].[Na+]
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.88 mmol, 1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-ethoxy-vinyl)-5-fluoro-pyridin-4-ylamine | 3.59 g | C(C)OC=CC=1C=NC=C(C1N)F | C9H11FN2O
